US04264510
1.24 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone were added at room temperature under a nitrogen atmosphere to a solution of 1.56 g of crude 1,2,3,4,9,10-hexahydro-2,3-dimethylene-1,4-epoxy-5-methoxyanthracene in 50 ml of benzene. After 1 hour, the suspension was filtered and the filtrate was washed with benzene. The organic solution was washed with two 75 ml portions of sodium hydrogen sulphite solution and two 75 ml portions of water. The aqueous phase was extracted with 50 ml of benzene and the combined organic solutions were dried over magnesium sulphate. After concentration, the residue was dissolved in 150 ml of diethyl ether, the solution was stirred with active carbon, the mixture was filtered and subsequently the filtrate was concentrated. Crystallisation of the residue from methanol yielded 1.09 g (70%) of 1,2,3,4-tetrahydro-2,3-dimethylene-1,4-epoxy-5-methoxyanthracene of melting point 154°-155° C.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.24 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 1,2,3,4,9,10-hexahydro-2,3-dimethylene-1,4-epoxy-5-methoxyanthracene | 1.56 g | C=C1C2C=3CC4=CC=CC(=C4CC3C(C1=C)O2)OC | C17H16O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1,2,3,4-tetrahydro-2,3-dimethylene-1,4-epoxy-5-methoxyanthracene | 1.09 g, 70% | C=C1C2C3=CC4=CC=CC(=C4C=C3C(C1=C)O2)OC | C17H14O2
